US08541588B2
N-[1-tert-butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-5-yl]-2,2,2-trifluoroacetamide
To a solution of (5-chloro-2-methoxy-phenyl)acetonitrile (Preparation 210, 2.154 g, 11.86 mmol) in ethyl formate (20 ml) was added sodium (605 mg, 26.3 mmol). The reaction was heated at a gentle reflux for 16 hours. After cooling to room temperature, water and dichloromethane were added and the solution adjusted to pH 3 with hydrochloric acid (6 M aqueous solution). The layers were separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organics were washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and evaporated in vacuo. Purification by flash column chromatography eluting with ethyl acetate:hexanes (gradient 0:1 to 1:1, by volume) gave a white solid which was dissolved in ethanol (50 ml), tert-butylhydrazine hydrochloride (1.77 g, 14.2 mmol) added and solution heated to reflux for 24 hours. The reaction was cooled and evaporated in vacuo to give a brown oil. This oil was dissolved in dichloromethane (50 ml) and triethylamine (4.2 ml, 30 mmol) and trifluoroacetic anhydride (4.2 ml, 30 mmol) were added. After stirring for 16 hours, the reaction was washed with potassium hydrogen sulphate (1 N aqueous solution), sodium bicarbonate (1 N aqueous solution) and saturated aqueous sodium chloride solution. The organic layer was separated, dried over magnesium sulphate, filtered and concentrated in vacuo to give a brown oil. This oil was dissolved in dichloromethane (20 ml) and cooled over an ice water bath before the addition of boron tribromide (1 M in dichloromethane, 22 ml, 22 mmol). After stirring for 45 minutes the reaction was added to ice water. The layers were separated and the aqueous layer washed with dichloromethane (2×20 ml). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo to give a brown oil. Purification by flash column chromatography eluting with ethyl acetate:hexane (gradient 0:1 to 1:0, by volume) to afford the title compound as a brown oil that solidified to a tan solid upon standing, 2.82 g, 66% yield.

reactant | (5-chloro-2-methoxy-phenyl)acetonitrile | 11.86 mmol, 2.154 g | ClC=1C=CC(=C(C1)CC#N)OC | C9H8ClNO
reactant | sodium | 26.3 mmol, 605 mg | [Na] | Na
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | tert-butylhydrazine hydrochloride | 14.2 mmol, 1.77 g | Cl.C(C)(C)(C)NN
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 30 mmol, 4.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | boron tribromide | 22 mmol, 1 M, 22 ml | B(Br)(Br)Br | BBr3
solvent | ethyl formate | 20 ml | C(=O)OCC | C3H6O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[1-tert-butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-5-yl]-2,2,2-trifluoroacetamide | 66% yield | C(C)(C)(C)N1N=CC(=C1NC(C(F)(F)F)=O)C1=C(C=CC(=C1)Cl)O | C15H15ClF3N3O2
